US09120749B2
{6-Bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (1.01 g, 3.25 mmol) was reacted with N1,N1-diethylcyclohexane-1,4-diamine (660 mg, 3.90 mmol) to afford the desired product (1.12 g, 78%) as a yellow wax: ESI MS m/z 523 [C23H30BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 3.25 mmol, 1.01 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | N1,N1-diethylcyclohexane-1,4-diamine | 3.90 mmol, 660 mg | C(C)N(C1CCC(CC1)N)CC | C10H22N2
product | {6-Bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 1.12 g, 78% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C23H30BrN3O
